US08912200B2
Step 2: 3-Methoxy-4-trimethylsilanylethynyl-phenylamine
4-Iodo-3-methoxy-phenylamine (3.17 g, 12.7 mmol) and ethynyl-trimethyl-silane (3.5 mL, 25 mmol) in dry acetonitrile were purged with nitrogen and treated with TEA (17.6 mL, 127 mmol), CuI (123 mg, 0.635 mmol) and Pd(Ph3P)2Cl2 (447 mg, 0.635 mmol). The reaction was stirred at room temperature for 2 h. The volatiles were evaporated, the residue was taken up with EtOAc (200 mL), washed with water (50 mL), dried over sodium sulfate and purified by flash chromatography on silica gel (hexane/EtOAc 55/45) to afford the title compound (1.86 g, 66%).

reactant | 4-Iodo-3-methoxy-phenylamine | 12.7 mmol, 3.17 g | IC1=C(C=C(C=C1)N)OC | C7H8INO
reactant | ethynyl-trimethyl-silane | 25 mmol, 3.5 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | CuI | 0.635 mmol, 123 mg | [Cu]I
catalyst | Pd(Ph3P)2Cl2 | 0.635 mmol, 447 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Methoxy-4-trimethylsilanylethynyl-phenylamine | 1.86 g, 66% | COC=1C=C(C=CC1C#C[Si](C)(C)C)N | C12H17NOSi
